US08034812B2
Production of N-{6-[(1,2-dimethyl-1H-benzimidazol-5-yl)oxy]imidazo[1,2-b]pyridazin-2-yl}cyclopropanecarboxamide
Using N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)cyclopropanecarboxamide (254 mg, 0.774 mmol), 1,2-dimethyl-1H-benzimidazole-5-ol (163 mg, 1.06 mmol), potassium carbonate (267 mg, 1.94 mmol) and N,N-dimethylformamide (3.0 mL) as starting materials and in the same manner as in Example 95, the title compound (79 mg, 28%) was obtained as a white powder.

reactant | N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)cyclopropanecarboxamide | 0.774 mmol, 254 mg | IC=1C=CC=2N(N1)C=C(N2)NC(=O)C2CC2 | C10H9IN4O
reactant | 1,2-dimethyl-1H-benzimidazole-5-ol | 1.06 mmol, 163 mg | CN1C(=NC2=C1C=CC(=C2)O)C | C9H10N2O
reactant | potassium carbonate | 1.94 mmol, 267 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 3.0 mL | CN(C=O)C | C3H7NO
product | N-{6-[(1,2-dimethyl-1H-benzimidazol-5-yl)oxy]imidazo[1,2-b]pyridazin-2-yl}cyclopropanecarboxamide | 79 mg, 28% | CN1C(=NC2=C1C=CC(=C2)OC=2C=CC=1N(N2)C=C(N1)NC(=O)C1CC1)C | C19H18N6O2
